2152-11-26 08:31:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2152-11-25**] 06:10 PM
 BLOOD CULTURED - At [**2152-11-26**] 06:15 AM
 FEVER - 101.5
F - [**2152-11-26**] 05:00 AM
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Cardiovascular: Chest pain, No(t) Palpitations, No(t) Edema, No(t)
   Orthopnea
   Respiratory: Cough
   Gastrointestinal: Abdominal pain
   Genitourinary: Dysuria
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Flowsheet Data as of  [**2152-11-26**] 08:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.5
   Tcurrent: 38.6
C (101.5
   HR: 77 (76 - 94) bpm
   BP: 110/63(74) {95/55(64) - 112/79(82)} mmHg
   RR: 20 (16 - 24) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
                  Total In:
                                                                  1,740 mL
                                                                    240 mL
   PO:
                                                                    240 mL
                                                                    240 mL
   TF:
   IVF:
                                                                  1,500 mL
   Blood products:
   Total out:
                                                                    750 mL
                                                                    700 mL
   Urine:
                                                                    750 mL
                                                                    700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    990 mL
                                                                   -460 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 92%
   ABG: ///20/
   Physical Examination
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), (Murmur:
   Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   left bases)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   297 K/uL
   11.1 g/dL
   122 mg/dL
   0.9 mg/dL
   20 mEq/L
   4.5 mEq/L
   12 mg/dL
   106 mEq/L
   137 mEq/L
   33.1 %
   8.8 K/uL
        [image002.jpg]
                            [**2152-11-25**]  07:10 PM
                            [**2152-11-26**]  05:46 AM
   WBC
   10.4
   8.8
   Hct
   36.3
   33.1
   Plt
   293
   297
   Cr
   1.2
   0.9
   TropT
   0.01
   <0.01
   Glucose
   104
   122
   Other labs: PT / PTT / INR:15.4/33.0/1.3, CK / CKMB /
   Troponin-T:67//<0.01, ALT / AST:44/35, Alk Phos / T Bili:76/0.6,
   Differential-Neuts:73.0 %, Band:0.0 %, Lymph:17.0 %, Mono:10.0 %,
   Eos:0.0 %, LDH:183 IU/L, Ca++:7.5 mg/dL, Mg++:2.4 mg/dL, PO4:2.5 mg/dL
   Imaging: final echo read pending
   Microbiology: bcx drawn for spike
   Assessment and Plan
 PERICARDIAL EFFUSION (WITHOUT TAMPONADE)
   59 yo M w/ CAD developed pericarditis one week ago, then developed
   moderate sized effusion w/o tamponade over the course of one week.
   Hemodynamically stable.
   .
   # PUMP/EFFUSION: Fairly rapid accumulation of moderate sized effusion
   over the span of one week. Preliminary ECHO without tamponade
   physiology. Pulsus on arrival [**7-10**]. pt reports that his resting HR is
   in the 50s, although BP is stable, somewhat concerning that avg initial
   HR here was in 90s. BP at baseline.
   - trial of IVF to see if effect on HR
   - f/u final ECHO read tomorrow
   - if any compromise in BP would resuscitate with aggressive IVF;
   maintain two peripheral IVs
   - repeat ECHO on Monday: if any negative change in hemodynamics or
   interval increase in effusion, would pursue periocardiocentesis.
   .
   # CORONARIES: CAD s/p distant PCI for stable angina. Reports good
   exercise tolernace w/o exertional angina/SOB and is followed by his
   outpt cards.
   - cont ASA 81mg, home statin, home niacin; pt is not on BB at home and
   see no indication to starting at this time
   .
   # Pericarditis: Based on symptoms, EKG findings, elevated ESR/CRP at
   the time of initial presentation one week ago. Did improve on
   NSAIDS--holding currently given that CP has resolved and Cr/ALT
   slightly elevated.
   .
   # Possible adrenal Insufficiency: Curbsided endocrine on arrival and
   started 20mg hydrocortisone qam, 10mg qpm.  He needs to establish care
   with an endocrinologist at the time of d/c.
   - Need to d/w Endo what discharge steroid, if any, would be.
   - recheck TFTs
   .
   FEN: regular
   .
   ACCESS: PIV's
   .
   PROPHYLAXIS:
   -DVT ppx with SQH, BOWEL
   -Pain CONTROLLED
   .
   CODE: confirmed full
   .
   COMM: patient
   .
   DISPO: CCU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2152-11-25**] 05:00 PM
   20 Gauge - [**2152-11-25**] 08:31 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2152-11-27 07:28:00 Physician Resident Progress Note
Chief Complaint: 59 M h/o CAD remote PCI, acute pericarditis diagnosed
   [**2152-11-18**] from OSH, initial TTE without effusion, repeat TTE 5 days
   later with moderate effusion, no signs of tamponade, transferred to
   [**Hospital1 19**] for further care. Course complicated by fevers - being treated
   with vancomycin and ceftriaxone empirically for ?purulent pericardial
   effusion.
   24 Hour Events:
 URINE CULTURE - At [**2152-11-26**] 11:00 AM
 FEVER - 101.6
F - [**2152-11-26**] 06:30 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2152-11-26**] 07:21 PM
   Ceftriaxone - [**2152-11-26**] 08:51 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2152-11-26**] 10:32 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from previous note
   Review of systems:
   Flowsheet Data as of  [**2152-11-27**] 07:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.6
   Tcurrent: 36.1
C (96.9
   HR: 50 (48 - 90) bpm
   BP: 101/50(62) {85/42(54) - 122/66(79)} mmHg
   RR: 14 (12 - 23) insp/min
   SpO2: 98%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 72 Inch
                  Total In:
                                                                  1,450 mL
                  PO:
                                                                  1,200 mL
                  TF:
   IVF:
                                                                    250 mL
   Blood products:
   Total out:
                                                                  1,650 mL
                                                                    525 mL
   Urine:
                                                                  1,650 mL
                                                                    525 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -200 mL
                                                                   -525 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///22/
   Physical Examination
   HEENT: JVD 8 cm
   CV: distant heart sounds, nl S1, nl S2, difficult to assess for
   murmurs, pulsus [**4-9**].
   Resp: Bibasilar crackles/decreased breath sounds. Upper lung fields
   CTAB.
   Abd: Soft, nontender, nondistended, +BS
   Ext: No peripheral edema, Radial pulses nl
   Skin:  Not assessed
   Neurologic: Attentive, appropriate
   Labs / Radiology
   289 K/uL
   9.8 g/dL
   97 mg/dL
   0.9 mg/dL
   22 mEq/L
   4.1 mEq/L
   14 mg/dL
   104 mEq/L
   134 mEq/L
   29.7 %
   6.4 K/uL
        [image002.jpg]
                            [**2152-11-25**]  07:10 PM
                            [**2152-11-26**]  05:46 AM
                            [**2152-11-27**]  05:53 AM
   WBC
   10.4
   8.8
   6.4
   Hct
   36.3
   33.1
   29.7
   Plt
   293
   297
   289
   Cr
   1.2
   0.9
   0.9
   TropT
   0.01
   <0.01
   Glucose
   104
   122
   97
   Other labs: PT / PTT / INR:15.0/33.4/1.3, CK / CKMB /
   Troponin-T:74//<0.01, ALT / AST:24/18, Alk Phos / T Bili:61/0.3,
   Differential-Neuts:73.0 %, Band:0.0 %, Lymph:17.0 %, Mono:10.0 %,
   Eos:0.0 %, Albumin:3.2 g/dL, LDH:152 IU/L, Ca++:7.7 mg/dL, Mg++:2.4
   mg/dL, PO4:2.4 mg/dL
   Fluid analysis / Other labs:
   Imaging: [**2152-11-25**]: TTE: The left atrium and right atrium are normal in
   cavity size. Left ventricular wall thickness, cavity size, and global
   systolic function are normal (LVEF>55%). Due to suboptimal technical
   quality, a focal wall motion abnormality cannot be fully excluded.
   Right ventricular chamber size and free wall motion are normal. The
   aortic valve leaflets (?#) appear structurally normal with good leaflet
   excursion. No aortic regurgitation is seen. The mitral valve leaflets
   are structurally normal. No mitral regurgitation is seen. The pulmonary
   artery systolic pressure could not be determined. There is a moderate
   sized circumferential pericardial effusion without echocardiographic
   evidence of tamponade physiology.
   CXR: [**2152-11-25**] Cardiac silhouette is enlarged and may reflect a provided
   history of pericardial effusion. Pulmonary vascularity is normal.
   Opacity at left base likely represents a combination of a small left
   pleural effusion and adjacent atelectasis.
   Microbiology: urine cx pending
   blood cx pending
   MRSA screen pending
   Assessment and Plan
 PERICARDIAL EFFUSION (WITHOUT TAMPONADE)
 some questions of ?
   purulent pericardial effusion. Currently afebrile, no signs of HD
   instability. On vanc and CTX overnight. Pulsus [**4-9**]. HR stable. BP near
   baseline. No evidence of tamponade currently.
   -          repeat TTE this AM
   -          possible pericardiocentesis today
 pending results of TTE
   -          NPO p MN
   -          Cont antibiotics
 vanc/CTX
 conisider stopping vanc.
   -          r/o other infections. Follow up UA/Ucx, CXR
   -          eval pleural effusion
 consider tap
   .
   #. Coronaries: History of CAD s/p distant PCI for stable angina. Good
   exercise tolerance, without exertional angina/SOB. Followed by
   outpatient cardiology.
   -          cont ASA, statin and niacin per home regimen
   .
   #. Pericarditis: Symptoms/EKG findings. Elevated ESR/CRP at
   presentation.
   -  NSAIDs with improved kidney function.
   .
   #. Adrenal insufficiency: Endo recommended 20mg hydrocortisone q AM and
   10mg hydrocortisone q PM. Will need to follow up with endocrinology as
   outpatient.
   .
   FEN: NPO p MN, replete lytes prn
   ACCESS: PIV
   PROPHYLAXIS: DVT SQH, Bowel
   CODE: Full
   COMMUNICATION: Patient
   DISPO: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2152-11-25**] 05:00 PM
   20 Gauge - [**2152-11-25**] 08:31 PM
   Prophylaxis:
   DVT: SQH
   Stress ulcer: NA
   VAP:  NA
   Comments:
   Communication:  Comments: Patient
   Code status: Full code
   Disposition: CCU

2152-11-28 06:35:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2152-11-27**] 08:39 AM
   - pulsus [**4-9**] this AM
   - pericardial effusion improved on echo - will hold of on
   pericardiocentesis
   - d/c'ed vancomycin - will restart if decompensates. CTX continued
   until urine cultures come in
   - pleural effusion on TTE and CXR. PA and lat CXR with sizeable
   effusion, will likely need thoracentesis tomorrow
   - HR in 30s with some 2.4 sec pauses while sleeping; asymptomatic with
   adequate BP throughout
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2152-11-27**] 08:00 AM
   Ceftriaxone - [**2152-11-27**] 07:51 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2152-11-27**] 10:07 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2152-11-28**] 06:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 36.2
C (97.2
   HR: 45 (45 - 82) bpm
   BP: 107/53(66) {88/38(50) - 121/60(73)} mmHg
   RR: 13 (11 - 21) insp/min
   SpO2: 95%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 72 Inch
                  Total In:
                                                                    790 mL
                  PO:
                                                                    540 mL
                  TF:
   IVF:
                                                                    250 mL
   Blood products:
   Total out:
                                                                  1,550 mL
                                                                    450 mL
   Urine:
                                                                  1,550 mL
                                                                    450 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -760 mL
                                                                   -450 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ////
   Physical Examination
   HEENT: JVP 8 cm
   CV: distant heart sounds, nl S1, nl S2, difficult to assess for
   murmurs, pulsus 4.
   Resp: Mild bibasilar crackles/decreased breath sounds. Upper lung
   fields CTAB.
   Abd: Soft, nontender, nondistended, +BS
   Ext: No peripheral edema, Radial pulses nl
   Skin:  Not assessed
   Neurologic: Attentive, appropriate
   Labs / Radiology
   289 K/uL
   9.8 g/dL
   97 mg/dL
   0.9 mg/dL
   22 mEq/L
   4.1 mEq/L
   14 mg/dL
   104 mEq/L
   134 mEq/L
   28.6 %
   6.4 K/uL
        [image002.jpg]
                            [**2152-11-25**]  07:10 PM
                            [**2152-11-26**]  05:46 AM
                            [**2152-11-27**]  05:53 AM
                            [**2152-11-27**]  05:04 PM
   WBC
   10.4
   8.8
   6.4
   Hct
   36.3
   33.1
   29.7
   28.6
   Plt
   293
   297
   289
   Cr
   1.2
   0.9
   0.9
   TropT
   0.01
   <0.01
   <0.01
   Glucose
   104
   122
   97
   Other labs: PT / PTT / INR:15.0/33.4/1.3, CK / CKMB /
   Troponin-T:74//<0.01, ALT / AST:24/18, Alk Phos / T Bili:61/0.3,
   Differential-Neuts:73.0 %, Band:0.0 %, Lymph:17.0 %, Mono:10.0 %,
   Eos:0.0 %, Albumin:3.2 g/dL, LDH:152 IU/L, Ca++:7.7 mg/dL, Mg++:2.4
   mg/dL, PO4:2.4 mg/dL
   Micro:
   urine culture from [**11-26**]: neg
   Blood culture from [**11-26**]: NGTD
   Imaging:
   TTE ([**11-27**]): The left atrium and right atrium are normal in cavity
   size. Left ventricular wall thickness, cavity size, and global systolic
   function are normal (LVEF>55%). There is a small circumferential
   pericardial effusion (0.5cm around the apex, <0.5cm inferolateral to
   the left ventricle and anterior to the right ventricle. There are no
   echocardiographic signs of tamponade.
   Compared with the prior study (images reviewed) of [**2152-11-25**], the
   pericardial effusion is smaller.
   .
   CXR PA/lateral ([**11-27**]): In comparison with the earlier study of this
   date, there is evidence of substantial effusion posteriorly on the
   lateral view. To evaluate the amount of free pleural fluid, a lateral
   decubitus view would be recommended.
   Assessment and Plan
 PERICARDIAL EFFUSION (WITHOUT TAMPONADE)
 some questions of ?
   purulent pericardial effusion initially, but currently afebrile, no
   signs of HD instability; pt was on vanc and CTX initially, vanc d/c
   yesterday. Pulsus 4. HR stable. BP near baseline. No evidence of
   tamponade currently.
   - Continue to check pulsus daily
   - d/c all abx
   .
   # Pleural effusion:  likely from the same etiology as pericardial
   effusion, possibly extending from pericardial effusion. Pt is minimally
   symptomatic from the pleural effusion.  No evidence of pneumonia.
   - [**Female First Name (un) 217**] today
   - d/c all abx
   .
   #. Pericarditis: Symptoms/EKG findings. Elevated ESR/CRP at
   presentation.
   -  NSAIDs with improved kidney function.
   .
   # Anemia: hct trending down.  No evidence of active bleeding. Likely
   secondary to anemia of inflammation (given elevated ESR/CRP), or viral
   etiology.
   - continue to trend
   - check Fe studies, retic and hemolysis labs
   - guaiac all stools
   .
   #. Coronaries: History of CAD s/p distant PCI for stable angina. Good
   exercise tolerance, without exertional angina/SOB. Followed by
   outpatient cardiology.
   -          cont ASA, statin and niacin per home regimen
   .
   #. Adrenal insufficiency:
   -          Endo recommended 20mg hydrocortisone q AM and 10mg
   hydrocortisone q PM.
   -          Will need to follow up with endocrinology as outpatient.
   -       will send pt out with bactrim SS for PCP [**Name9 (PRE) 2674**]
   ICU [**Name9 (PRE) 81**]
   Nutrition:
   Regular; Low sodium / Heart healthy allergic to mustard
   Glycemic Control:
   Lines:
   22 Gauge - [**2152-11-25**] 05:00 PM
   20 Gauge - [**2152-11-25**] 08:31 PM
   Prophylaxis:
   DVT: SQH
   Stress ulcer: NA
   VAP:  NA
   Comments:
   Communication:  Comments: Patient
   Code status: Full code
   Disposition: will call out to floor today after thoracentesis